* PSpice Model Editor - Version 16.3.0

*$
*	|==========================================================
*	|
*	|
*	|
*	|			 TLV431A
*	|
*	|			ON Semiconductor
*	|
*	|		 Low Voltage Precision Adjustable Shunt Regulator
*	|
*	|
*	|
*	|
*	|	This model was developed by
*	|
*	|	AEI (Analytic Engineering)
*	|
*	|	182 Morris Avenue
*	|
*	|	Holtsville, NY 11742
*	|
*	|	Copyright 2001 AEI
*	|
*	|	All Rights Reserved
*	|
*	|
*	|
*	|	The content of this model is subject to change
*	|
*	|	without notice and may not be modified or altered
*	|
*	|	without permission from On Semiconductor. This model
*	|
*	|	has been carefully checked and is believed to be
*	|
*	|	accurate, however neither AEI nor On Semiconductor
*	|
*	|	assume liability for the use of this model or the
*	|
*	|	results obtained from using it.
*	|
*	|
*	|
*	|	For more information regarding modeling services,
*	|
*	|	model libraries or simulation productors, please
*	|
*	|	call AEI at (631) 654-0253 ext 116 or 106.
*	|
*	|	email: Sales@aeng.com.
*	|
*	|
*	|
*	|==========================================================
*SPICE_NET
.SUBCKT TLV431 K A R
*             K A FDBK
.MODEL DCLAMP D (IS=13.5N RS=25M N=1.59 
+ CJO=45P VJ=.75 M=.302 TT=50.4N BV=36V IBV=1MA)
.MODEL DCL2 D RS=660K
V1 1 A 1.24
R1 A 2 15.6
C1 2 A .5U
R2 2 3 100
C2 3 4 1.3U
R3 4 A 8
G2 A 8 3 A  .86
D1 5 8 DCLAMP
D2 K 8 DCLAMP
D4 A 8 DCLAMP
V4 5 A 2
G1 A 2 1 R 0.11
VCLAMP 9 A 14.5
D3  K 9 DCL2
.ENDS
*$
